US06239317B1
di-peroxydodecanedioic acid (DPDDA);
a mixture of maleic anhydride, a urea-hydrogen peroxide complex and acetic acid; and

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | di-peroxydodecanedioic acid | C(CCCCCCCCCCC(=O)OO)(=O)OO | C12H22O6
